US06706725B1
c) (E)-3-{5-[3,4-bis(tert-Butyldimethylsilanyloxy-methyl)phenoxymethyl]-3-thienyl}pent-2-enal
In a manner similar to that of Example 7(c), by reaction of 2.1 g (3.7 mmol) of (E)-3-{5-[3,4-bis(tert-butyldimethylsilanyloxymethyl)phenoxymethyl]-3-thienyl}pent-2-en-1-ol with 4.9 g (56 mmol) of manganese dioxide, the crude product (1.8 g) is the expected aldehyde, obtained in a yield of 86%.

reactant | (E)-3-{5-[3,4-bis(tert-butyldimethylsilanyloxymethyl)phenoxymethyl]-3-thienyl}pent-2-en-1-ol | 3.7 mmol, 2.1 g | [Si](C)(C)(C(C)(C)C)OCC=1C=C(OCC2=CC(=CS2)/C(=C/CO)/CC)C=CC1CO[Si](C)(C)C(C)(C)C | C30H50O4SSi2
catalyst | manganese dioxide | 56 mmol, 4.9 g | [O-2].[O-2].[Mn+4]
product | (E)-3-{5-[3,4-bis(tert-Butyldimethylsilanyloxy-methyl)phenoxymethyl]-3-thienyl}pent-2-enal | yield of 86% | [Si](C)(C)(C(C)(C)C)OCC=1C=C(OCC2=CC(=CS2)/C(=C/C=O)/CC)C=CC1CO[Si](C)(C)C(C)(C)C | C30H48O4SSi2
